US07863332B2
380 mg (10 mmol, 10 eq) of sodium hydroxide are added to a solution of 436 mg (1.0 mmol, 1 eq) of ethyl 3-{3′-[3-(4-butylphenyl)-1-methylureido]biphenyl-4-yl}propanoate in 20 mL of ethanol. The reaction mixture is heated at 50° C. for 3 hours. The reaction medium is evaporated to dryness, taken up in water, acidified with 1N hydrochloric acid solution and extracted with ethyl acetate. The organic phases are combined, washed with water and dried over sodium sulfate. The solvent is evaporated off and 352 mg of 3-{3′-[3-(4-butylphenyl)-1-methylureido]biphenyl-4-yl}propanoic acid are obtained in the form of white crystals (m.p.=157-158° C.). Yield=86%

reactant | sodium hydroxide | 10 mmol, 380 mg, 10 eq | [OH-].[Na+]
reactant | ethyl 3-{3′-[3-(4-butylphenyl)-1-methylureido]biphenyl-4-yl}propanoate | 1.0 mmol, 436 mg, 1 eq | C(CCC)C1=CC=C(C=C1)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)OCC)=O | C29H34N2O3
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-{3′-[3-(4-butylphenyl)-1-methylureido]biphenyl-4-yl}propanoic acid | 352 mg, Yield=86% | C(CCC)C1=CC=C(C=C1)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)O)=O | C27H30N2O3
